Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right leg pain and swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o female with history of neuropathic pain who recently 
underwent arthroscopic meniscus repair and presented to recent 
meniscus repair p/w right leg pain and swelling. She reports 
that she had been recovering well from her operation, attending 
physical therapy, until approximately one week ago. At that 
time, she reports she was having difficulty with knee extension, 
and was having extreme pain with this, and noted ___ swelling 
as well. She has fallen multiple times due to the pain, no head 
strike or LOC and comes in today because of frustration. She 
denies abd pain, weakness, loss of bladder or bowel control. She 
reports that the pain in her knee seems to be much worse at 
night.  
 Notably, she is on suboxone at home, taken ___ times per day. 
She has a remote history of heroin use, but this medication was 
actually started for pain control a few years ago when she 
developed a herniated disc in her back.  
 In the ED:  
 - Exam notable for: Full ROM at hip and knee, TTP over R medial 
joint space, ___ strength ___ pain  
 - Labs notable for: unremarkable  
 - Imaging was notable for: ___ negative for DVT  
 - Patient was given: home medications and cyclobenzaprine  
 - The patient was seen by orthopedics who recommended WBAT on 
RLE, disposition per ___ recommended rehab given pts limited 
mobility. Given the patients suboxone use, the decision was to 
admit to medicine for further evaluation and management.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI  
 
Past Medical History:
Opioid use d/o in remission, on suboxone therapy  
 Neuropathic pain  
 HLD  
 ___- Arthroscopic subtotal lateral meniscectomy, 
arthroscopic synovectomy, major, three or more compartments, 
right knee.  
 
Social History:
___
Family History:
Reviewed and noncontributory
 
Physical Exam:
On Admission:
VITAL SIGNS:  
 97.8 88 130/76 18 100% RA  
 GENERAL: Sitting at the edge of the bed with knee in flexion, 
comfortable  
 HEENT: PEERL, OP clear without lesions or thrush  
 NECK: supple, no JVD  
 CARDIAC: RRR, no MRG  
 LUNGS: CTAB, without wheezing or rhonchi  
 ABDOMEN: Soft, nt, nd  
 EXTREMITIES: RLE with 2+ pitting edema to knee, LLE without 
edema  
 NEUROLOGIC: AOx3, CN2-12 intact, ___ motor exam with ___ in LLE, 
___ hip flexion, knee flex/ext d/t pain, ___ at ankle, gait 
deferred. Full ROM with passive flexion/extension. No ttp at the 
R knee joint space, no pain with varus/valgus stress. No 
overlying erythema or notable edema of the joint  
 SKIN: No suspicious rashes  

On Discharge:
Vitals:  98.1 116/81 84 18 94%/RA 
GENERAL: NAD, comfortable, sitting at bedside
 HEENT: EOMI, moist MM   
 NECK: supple, no JVD  
 CARDIAC: RRR, no MRG  
 LUNGS: CTAB, without wheezing or rhonchi  
 ABDOMEN: Soft, nt, nd  
 EXTREMITIES: R foot with 1+ pitting edema up to ankle, 
otherwise RLE with trace edema, R and L leg slightly asymmetric 
 NEUROLOGIC: AOx3, CN2-12 intact, motor exam with ___ in LLE, 
RLE ___ hip flexion, knee flexion and extension limited d/t 
pain, but ___ strength, ___ at ankle, gait normal. No ttp at the 
R knee joint space, no pain with varus/valgus stress. No 
overlying erythema or notable edema of the joint  
 SKIN: No suspicious rashes  
 
Pertinent Results:
On Admission:
___ 07:10PM BLOOD WBC-6.6 RBC-4.30 Hgb-13.1 Hct-40.1 MCV-93 
MCH-30.5 MCHC-32.7 RDW-12.6 RDWSD-42.8 Plt ___
___ 07:10PM BLOOD Neuts-52.2 ___ Monos-5.8 Eos-2.0 
Baso-0.5 Im ___ AbsNeut-3.45 AbsLymp-2.59 AbsMono-0.38 
AbsEos-0.13 AbsBaso-0.03
___ 07:10PM BLOOD Plt ___
___ 07:10PM BLOOD Glucose-92 UreaN-15 Creat-0.8 Na-135 
K-4.0 Cl-99 HCO3-21* AnGap-19
___ 07:10PM BLOOD CRP-6.7*
___ 07:10PM BLOOD SED RATE-Test    

Micro:
None

Imaging:
R ___ US (___)
Impression: 
1. The calf veins were difficult to visualize limiting 
assessment.  Allowing
for this, no evidence of deep venous thrombosis in the right 
lower extremity
veins.
2. A 2.9 x 2.0 x 6.4 cm complex right ___ cyst.

R Knee XR (___)
Impression:
No acute fracture-dislocation.  Small/moderate suprapatellar 
joint effusion.

On Discharge:
___ 05:20AM BLOOD Glucose-87 UreaN-26* Creat-0.8 Na-138 
K-4.2 Cl-99 HCO3-25 AnGap-18
___ 05:20AM BLOOD Calcium-10.1 Phos-4.0 Mg-2.___ is a ___ with PMHx of neuropathic pain and recent R 
knee arthroscopy who presents with RLE swelling, pain, and 
difficulty ambulating. 

Patient is ___ months post op from arthroscopic knee surgery 
(___), had recovered well and had ___ as postop, however, 
was experiencing weakness per Ortho ___ gluteal muscle weakness 
and deconditioning. Ortho saw her in the ED and did note she had 
a right knee flexion contracture. Labs were normal and not 
concerning for an acute infectious process. ___ negative for 
DVT but notable for complex R ___ cyst, and plain film with 
suprapatellar effusion. Both Ortho and ___ recommended rehab. 
Pain was well controlled with Tylenol, cyclobenzaprine, home 
gabapentin (for neuropathic pain), home suboxone, and naproxen. 
Unfortunately, she was unable to be placed in rehab facility due 
to suboxone use. ___ worked with her in house every day until 
comfortable to be discharged with ___ home instructions. Also, 
during hospital admission she was hypertensive to the 160s. She 
was started on HCTZ 12.5mg PO daily and her SBPs were in the 
110-130s. 

Transitional Issues:
#Rehab-Received ___ every day during hospital admission. Due to 
her suboxone use was unable to get placed at rehab facility. ___ 
worked with the patient and her husband to continue ___ maneuvers 
at home. Will need to follow up with orthopedics re: her 
improvement and functional status 
#Suboxone: will continue as outpatient. She was on suboxone 
prior to admission. She gets her prescription from ___ 
___ Addiction Recovery Program, ___
#HTN-She was hypertensive to the 160s during hospital admission. 
She was started on 12.5mg HCTZ PO daily and SBPs came down to 
110-130s. Please follow up and ensure her BP control is 
optimized. 
#CODE: Full, presumed. We started discussion regarding her code 
status. Warrants further discussion.
#CONTACT: ___, her husband, and health care proxy 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 800 mg PO TID 
2. Simvastatin 10 mg PO QPM 
3. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL TID 
4. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Cyclobenzaprine 10 mg PO TID:PRN leg pain, spasm 
RX *cyclobenzaprine 10 mg 1 tablet(s) by mouth three times daily 
Disp #*42 Tablet Refills:*0 
2.  Hydrochlorothiazide 12.5 mg PO DAILY 
RX *hydrochlorothiazide 12.5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Naproxen 500 mg PO Q12H:PRN Pain - Moderate 
RX *naproxen 500 mg 1 tablet(s) by mouth every 12 hours Disp 
#*60 Tablet Refills:*0 
4.  Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL TID  
5.  Gabapentin 800 mg PO TID  
6.  Loratadine 10 mg PO DAILY  
7.  Simvastatin 10 mg PO QPM  
8.Outpatient Physical Therapy
Rolling Walker
ICD 10 DX: M25.561, leg pain
Length of need: 13 months
Prognosis: good 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Right knee flexion contracture, hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ 
for right leg pain and swelling. We conducted lab tests and took 
several images of your right leg with ultrasound and xray that 
revealed a complex ___ cyst. Orthopedics and ___ saw you 
while in the hospital and recommended rehab to strengthen the 
function of your leg that may have gotten worse after your 
meniscal repair two months ago. Since we weren't able to place 
you in a rehab facility, physical therapy worked with you during 
this hospitalization every day to rehabilitate your ambulatory 
function. We are glad this was possible and got you to a 
strength that you are comfortable with to go home.  

Please make sure you follow up with your outpatient providers 
and attend all your scheduled appointments. Thank you for 
allowing us to be a part of your care. 

Sincerely, 

Your ___ Care Team
 
Followup Instructions:
___